US08097759B2
N-[4-Chloro-3-(trifluoromethyl)phenyl]-2-hydroxy-5-methylbenzamide (Compound No. 134)
Using 5-methylsalicylic acid and 4-chloro-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-methylsalicylic acid | CC1=CC=C(C(C(=O)O)=C1)O | C8H8O3
reactant | 4-chloro-3-(trifluoromethyl)aniline | ClC1=C(C=C(N)C=C1)C(F)(F)F | C7H5ClF3N
product | N-[4-Chloro-3-(trifluoromethyl)phenyl]-2-hydroxy-5-methylbenzamide | Yield: 70.4% | ClC1=C(C=C(C=C1)NC(C1=C(C=CC(=C1)C)O)=O)C(F)(F)F | C15H11ClF3NO2
